US04658041
The reaction conditions of Example 37 are substantially repeated employing 1,4-dichlorobutane (190.52 g, 1.5 moles), dimethyl carbonate (135.0 g, 1.5 moles) and 30.0 g of DOWEX® MWA-1 beads. After 2 hours at 150° C., distillation gives 34.5 g (13.8 percent yield based on 1,4-dichlorobutane) of 4-chlorobutyl methyl carbonate, b.p. 66° C.-67° C. (0.5 torr).

reactant | 1,4-dichlorobutane | 1.5 moles, 190.52 g | ClCCCCCl | C4H8Cl2
reactant | dimethyl carbonate | 1.5 moles, 135.0 g | C(OC)(OC)=O | C3H6O3
product | 4-chlorobutyl methyl carbonate | 34.5 g, 13.8 percent yield | C(OCCCCCl)(OC)=O | C6H11ClO3
